US05130312
A mixture of 1.17 parts of 2-chloropyrimidine, 5.56 parts of cis-4-amino-N-[1-(3-aminopropyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide and 2.7 parts of N,N-dimethylacetamide was stirred for 6.5 hours at 90° C. After cooling, a sodium carbonate solution was added. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2-propanol and 2,2'-oxybispropane. The product was filtered off and dried, yielding 2.4 parts (35%) of cis-4-amino-5-chloro-5-methoxy-N-[3-methoxy-1-[3-(2-pyrimidinylamino)propyl]-4-piperidinyl]benzamide; mp. 158.5° C. (compound 36).

reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | cis-4-amino-N-[1-(3-aminopropyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCN)OC)C=C1Cl)OC | C17H27ClN4O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | cis-4-amino-5-chloro-5-methoxy-N-[3-methoxy-1-[3-(2-pyrimidinylamino)propyl]-4-piperidinyl]benzamide | 35% | NC1C=CC(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCNC2=NC=CC=N2)OC)=CC1(OC)Cl | C21H31ClN6O3
